US06803362B2
Indole-2-carboxylic acid (5.2 g) in THF (200 mL) was treated with carbonyldiimidazole (4.8 g) and stirred at ambient temperature for 10 min whereupon 4-methyl-piperazine-1-carboxylic acid tert-butyl ester (5.0 g) was added. The mixture was stirred at ambient temperature for 72 h and the solvent removed under reduced pressure. The residue was dissolved in ethyl acetate and washed with saturated sodium bicarbonate solution. The organic portion was separated, dried over sodium sulfate and filtered, and solvent was evaporated to afford a solid. Recrystallization from hot ethanol afforded 4-(1H-Indole-2-carbonyl)-piperazine-1-carboxylic acid tert-butyl ester (4.2 g).

reactant | Indole-2-carboxylic acid | 5.2 g | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | carbonyldiimidazole | 4.8 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-methyl-piperazine-1-carboxylic acid tert-butyl ester | 5.0 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C | C10H20N2O2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 4-(1H-Indole-2-carbonyl)-piperazine-1-carboxylic acid tert-butyl ester | 4.2 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C=1NC2=CC=CC=C2C1 | C18H23N3O3
